US06479536B1
N-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-4-methoxybenzenesulfonamide
To a solution of 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine (0.35 g, 1.08 mmol) and 4-methoxybenzenesulfonyl chloride (0.25 g, 1.19 mmol) in chloroform (5 ml) was added triethylamine (0.16 ml, 1.19 mmol) and the mixture was stirred at room temperature for 14 hours. The solvent was concentrated under reduced pressure. Water (20 ml) was added into the residue and the product was extracted twice with ethyl acetate. The combined organic layers were washed with 1N hydrochloric acid and an aqueous saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to obtain 0.18 g (34% yield) of the title compound. Melting point: 206-208° C.

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | 1.08 mmol, 0.35 g | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C22H29NO
reactant | 4-methoxybenzenesulfonyl chloride | 1.19 mmol, 0.25 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | 1.19 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-4-methoxybenzenesulfonamide | 0.18 g, 34% yield | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NS(=O)(=O)C2=CC=C(C=C2)OC)C)(C)C | C29H35NO4S
